US04518597
6-[4-(4-Amino-3,5-dibromo-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-amino-3,5-dibromo-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 4-amino-3,5-dibromo-thiophenol | NC1=C(C=C(C=C1Br)S)Br | C6H5Br2NS
product | 6-[4-(4-Amino-3,5-dibromo-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | NC1=C(C=C(C=C1Br)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1)Br | C20H22Br2N2O3S
